US04314061
3,6-bis(2-isopropylaminopropoxy)acridine trihydrochloride
The compound is prepared from 3,6-bis(3-chloropropoxy)acridine hydrochloride and isopropylamine as described in Example 15.

reactant | 3,6-bis(3-chloropropoxy)acridine hydrochloride | Cl.ClCCCOC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCCCCl
reactant | isopropylamine | C(C)(C)N | C3H9N
product | 3,6-bis(2-isopropylaminopropoxy)acridine trihydrochloride | Cl.Cl.Cl.C(C)(C)NC(COC=1C=CC2=CC3=CC=C(C=C3N=C2C1)OCC(C)NC(C)C)C | InChI=1S/C25H35N3O2.3ClH/c1-16(2)26-18(5)14-29-22-9-7-20-11-21-8-10-23(13-25(21)28-24(20)12-22)30-15-19(6)27-17(3)4;;;/h7-13,16-19,26-27H,14-15H2,1-6H3;3*1H
